US09388140B2
4-{6-(3-Fluorophenoxy)-4-[(3,3,3-trifluoropropyl)amino]-1H-benzimidazol-1-yl}-2-methylbenzoic acid
To a solution of 275 mg (564 μmol) methyl 4-{6-(3-fluorophenoxy)-4-[(3,3,3-trifluoropropyl)amino]-1H-benzimidazol-1-yl}-2-methylbenzoate which was prepared according to intermediate example 10b in 12 mL tetrahydrofurane and 4 mL methanol were added 2.8 mL of a 1M aqueous lithium hydroxide solution and the mixture was stirred at 23° C. overnight. Water was added, the mixture was acidified by the addition of a 1M hydrochloric acid and extracted with dichloromethane and methanol. The organic layer was washed with brine and dried over sodium sulfate. After filtration and removal of solvent the residue was purified by chromatography to give 246 mg (88%) of the title compound.

reactant | methyl 4-{6-(3-fluorophenoxy)-4-[(3,3,3-trifluoropropyl)amino]-1H-benzimidazol-1-yl}-2-methylbenzoate | 564 μmol, 275 mg | FC=1C=C(OC=2C=C(C3=C(N(C=N3)C3=CC(=C(C(=O)OC)C=C3)C)C2)NCCC(F)(F)F)C=CC1 | C25H21F4N3O3
reactant | methanol | 4 mL | CO | CH4O
reactant | lithium hydroxide | 1M | [OH-].[Li+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | tetrahydrofurane | 12 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 4-{6-(3-Fluorophenoxy)-4-[(3,3,3-trifluoropropyl)amino]-1H-benzimidazol-1-yl}-2-methylbenzoic acid | 246 mg, 88% | FC=1C=C(OC=2C=C(C3=C(N(C=N3)C3=CC(=C(C(=O)O)C=C3)C)C2)NCCC(F)(F)F)C=CC1 | C24H19F4N3O3
